US06562847B1
Step (a): 1-t-Butoxycarbonyl-3-hydroxyazetidine
To 2.39 gm (10 mmol) of 1-(diphenylmethyl)-3-hydroxyazetidine in 50 mL of ethanol was added 239 mg of Pd/C. The reaction mixture was then hydrogenated at room temperature for 2 days. After 2 days, the suspension was filtered through celite and washed with H2O and MeOH. The combined filtrate was concentrated under reduced pressure. To the crude product were then added 50 mL of a solution containing 25 mL of H2O and 25 mL of dioxane, 2.62 gm (12 mmol) of di-t-butyl dicarbonate, and 2.1 mL (12 mmol) of DIEA at ice-bath temperature. The reaction mixture was slowly warmed to room temperature and allowed to stir at room temperature for 5 h. After 5 h, solvents were removed in vacuo. To the residue were added 100 mL of H2O and 100 mL of ethyl acetate. After removing the aqueous layer, the organic layer was washed with H2O (2×50 mL) and concentrated under reduced pressure. The crude product was purified by flash chromatography (2:1, hexane:ethyl acetate) to obtain 560 mg (32%) of a clear oil: 1H NMR (300 MHz, CD3OD) δ4.48 (1H, m), 4.10 (2H, t, J=4.5 Hz), 3.70 (2H, m), 1.43 (9H, s).

reactant | 1-(diphenylmethyl)-3-hydroxyazetidine | 10 mmol, 2.39 gm | C1(=CC=CC=C1)C(N1CC(C1)O)C1=CC=CC=C1 | C16H17NO
reactant | H2O | 25 mL | O | H2O
reactant | di-t-butyl dicarbonate | 12 mmol, 2.62 gm | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | DIEA | 12 mmol, 2.1 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | ethanol | 50 mL | C(C)O | C2H6O
catalyst | Pd/C | 239 mg | [Pd] | Pd
solvent | dioxane | 25 mL | O1CCOCC1 | C4H8O2
product | 1-t-Butoxycarbonyl-3-hydroxyazetidine | 560 mg, 32% | C(C)(C)(C)OC(=O)N1CC(C1)O | C8H15NO3
